US07501425B1
4-(Isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid
To a solution of 5.0 g (19.6 mmol) of ethyl 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylate in 20 mL of ethanol is added a solution of 0.8 g (20.6 mmol) of sodium hydroxide in 30 mL of water. The reaction suspension is stirred at room temperature overnight. The reaction solution is diluted with 100 mL of water and washed twice with diethyl ether. The aqueous phase is neutralized with 20.6 mL of 1N HCl. The precipitate is filtered and washed twice with water, dried under vacuum at 70° C. to give 4.0 g (90%) of the title compound: mp 202-203° C. (dec).

reactant | ethyl 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylate | 19.6 mmol, 5.0 g | C(C)(C)NC1=NC(=NC=C1C(=O)OCC)SC | C11H17N3O2S
reactant | sodium hydroxide | 20.6 mmol, 0.8 g | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | 4-(Isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid | 4.0 g, 90% | C(C)(C)NC1=NC(=NC=C1C(=O)O)SC | C9H13N3O2S
